US09302989B2
N-{4-[4-(propylcarbamoyl)piperidin-1-yl]phenyl}-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting propan-1-amine for 3-phenylpropan-1-amine and 1-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)piperidine-4-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.60 (s, 1H), 8.49 (d, J=5.0 Hz, 1H), 8.19 (s, 1H), 7.77 (t, J=5.6 Hz, 1H), 7.42 (d, J=5.1 Hz, 1H), 7.39-7.33 (m, 2H), 6.89-6.83 (m, 2H), 4.77 (d, J=6.2 Hz, 4H), 3.64-3.56 (m, 2H), 3.05-2.94 (m, 2H), 2.63-2.52 (m, 2H), 2.28-2.14 (m, 1H), 1.79-1.59 (m, 4H), 1.47-1.33 (m, 2H), 0.84 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 408 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 1-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)piperidine-4-carboxylic acid | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(C=C2)N2CCC(CC2)C(=O)O | C20H22N4O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{4-[4-(propylcarbamoyl)piperidin-1-yl]phenyl}-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C(CC)NC(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C23H29N5O2
